US04367238
50% Sodium hydride (650 mg), ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate (4 g) and n-propyl bromide (3.8 g) were treated in a similar manner to that of Example 14-(6) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]valerate (4.7 g).

reactant | Sodium hydride | 650 mg | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate | 4 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C19H19NO4
reactant | n-propyl bromide | 3.8 g | CCCBr | C3H7Br
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]valerate | 4.7 g | C(#N)C(C(=O)OCC)(CCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C22H25NO4
